US08211908B2
To a solution of 0.58 g of 7-(((1-(trifluoroacetyl)piperidin-4-yl)amino)methyl)-1,8-naphthyridin-2(1H)-one in 25 mL of chloroform, 0.43 g of di-tert-butyl dicarbonate was added, and the mixture was stirred at room temperature for 3 days. Water was added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and a mixed solvent of hexane:ethyl acetate (1:1) was added thereto, and the solid was filtered off to obtain 0.56 g of tert-butyl((7-oxo-7,8-dihydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate as a light pinkish white solid.

reactant | 7-(((1-(trifluoroacetyl)piperidin-4-yl)amino)methyl)-1,8-naphthyridin-2(1H)-one | 0.58 g | FC(C(=O)N1CCC(CC1)NCC1=CC=C2C=CC(NC2=N1)=O)(F)F | C16H17F3N4O2
reactant | di-tert-butyl dicarbonate | 0.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl((7-oxo-7,8-dihydro-1,8-naphthyridin-2-yl)methyl)(1-(trifluoroacetyl)piperidin-4-yl)carbamate | 0.56 g | C(C)(C)(C)OC(N(C1CCN(CC1)C(C(F)(F)F)=O)CC1=NC=2NC(C=CC2C=C1)=O)=O | C21H25F3N4O4
